US04598090
1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester, m.p. 156°-158° C. (5.1 g) was reacted with 2-methyl benzaldehyde (3.3 g) in methanol (80 ml) in the presence of sodium methylate (2.28 g) under stirring at room temperature for 20 hours. The precipitate was filtered and washed with methanol and then with water until neutral: crystallization from CH2Cl2 -methanol gave 5.2 g of 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester, m.p. 203°-205° C.

reactant | 1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester | O=C1C2=C(OC3=C1C=C(C=C3)C(=O)OC)CCC2 | C14H12O4
reactant | 2-methyl benzaldehyde | 3.3 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | sodium methylate | 2.28 g | C[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester | 5.2 g | CC1=C(C=C2CCC3=C2OC2=C(C3=O)C=C(C=C2)C(=O)OC)C=CC=C1 | C22H18O4
